US07994203B2
2-Bromo-1-(4-bromo-2-chloro-phenyl)-propan-1-one
This compound is prepared from 4-bromo-2-chloro-benzoic acid analgously to 2-bromo-1-(4-bromo-2-methyl-phenyl)-propan-1-one (Intermediate MA). 1H NMR (400 MHz, CDCl3) δ 1.90 (2H, d), 5.21 (1H, q), 7.40 (1H, d), 7.50 (1H, d), 7.62 (1H, s).

reactant | 4-bromo-2-chloro-benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | 2-bromo-1-(4-bromo-2-methyl-phenyl)-propan-1-one | BrC(C(=O)C1=C(C=C(C=C1)Br)C)C | C10H10Br2O
product | 2-Bromo-1-(4-bromo-2-chloro-phenyl)-propan-1-one | BrC(C(=O)C1=C(C=C(C=C1)Br)Cl)C | C9H7Br2ClO
